US06316482B1
To a suspension of sodium hydride (133 mg) in tetrahydrofuran (5.0 ml) was added dropwise a solution of benzyl indole-4-carboxylate (580 mg) in tetrahydrofuran (5.0 ml) at 0° C. and the mixture was stirred at 0° C. for 1 hour. 4-Toluenesulfonyl chloride (440 mg) was added to the mixture and the solution was stirred at ambient temperature for 1 hour. The reaction was quenched with 1N hydrochloric acid and then the aqueous solution was extracted with ethyl acetate. Drying, filtering and removal of solvents afforded a crude product. The crude product was purified by column chromatography (eluent; n-hexane:ethyl acetate=15:1) to give benzyl 1-(4-toluenesulfonyl)indole-4-carboxylate (560 mg) as a colorless syrup.

reactant | sodium hydride | 133 mg | [H-].[Na+]
reactant | benzyl indole-4-carboxylate | 580 mg | N1C=CC=2C(=CC=CC12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
reactant | 4-Toluenesulfonyl chloride | 440 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | benzyl 1-(4-toluenesulfonyl)indole-4-carboxylate | 560 mg | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC=2C(=CC=CC12)C(=O)OCC1=CC=CC=C1)C | C23H19NO4S
